US09402838B2
Synthesis of 2-(cyclohexyloxy)acetaldehyde
Acidify a mixture of (2,2-dimethoxyethoxy)cyclohexane and water (30 mL) to a pH of 1.0 with sulfuric acid (9.0 M aqueous solution), and connect the mixture to a short-path distillation head. Reduce the pressure to 26.7 kPa and heat the mixture to 100° C. for 1 h. Cool the mixture to room temperature, then extract the aqueous layer with TBME (2×75 mL). Wash the combined organic layers with saturated aqueous NaHCO3 (75 mL) and saturated aqueous NaCl (75 mL). Dry the organic phase over MgSO4, filter, and concentrate the filtrate under reduced pressure to furnish the title compound (634 mg, 51% yield). 1H NMR (400 MHz, CDCl3): δ 9.73 (t, J=1.0 Hz, 1H), 4.06 (d, J=1.0 Hz, 2H), 3.31 (tt, J=9.2, 3.9 Hz, 1H), 1.95-1.89 (m, 2H), 1.79-1.68 (m, 2H), 1.57-1.50 (m, 1H), 1.39-1.20 (m, 5H).

reactant | (2,2-dimethoxyethoxy)cyclohexane | COC(COC1CCCCC1)OC | C10H20O3
reactant | sulfuric acid | 9.0 M | S(O)(O)(=O)=O | H2O4S
solvent | water | 30 mL | O | H2O
product | 2-(cyclohexyloxy)acetaldehyde | 634 mg, 51% yield | C1(CCCCC1)OCC=O | C8H14O2
